2124-07-10 07:22:00 Physician Resident Progress Note
Chief Complaint: Nonverbal
   24 Hour Events:
   - attempted cardioversion x2, did not convert with shock, but did
   convert after transtracheal injection of lidocaine prior to intubation
   - nasal intubation done successfully
   - in and out of flutter, maintained MAP's in 70's minimum, was in
   flutter most of the night with unaffected pressures
   - amiodarone load started
   - swan showed RV tracing, repositioned
   - placed OGT to decompress
   - SVO2 remained >70
   - increased milrinone, continued dopamine
   - started lasix gtt - had good UOP during day (>70cc/hr) which
   decreased in late afternoon down to 30cc/hr, titrated up gtt to 15cc/hr
   and then to 20mg/hr as patient put out well (100cc/hr) but was still
   net positive
   - spoke with family regarding current treatment and likely multiple day
   stay in CCU - wife, daughters and mother
   - [**Name2 (NI) 6180**] CK flat, trop 0.02, MB negative
   - decreased FiO2 to 40%, tolerated well
   - LFT's and coags trending down
   - 10pm #'s with CO of 6 and CI of 3 (about the same all day)
   Allergies:
   Tegretol (Oral) (Carbamazepine)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,550 units/hour
   Amiodarone - 0.5 mg/min
   Dopamine - 2.5 mcg/Kg/min
   Propofol - 30 mcg/Kg/min
   Milrinone - 0.375 mcg/Kg/min
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from [**Name2 (NI) 4298**] except as noted below
   Review of systems:
   Nonverbal
   Flowsheet Data as of  [**2124-7-10**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 135 (97 - 135) bpm
   BP: 101/66(78) {85/49(61) - 124/78(95)} mmHg
   RR: 15 (12 - 20) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
    CVP: 24 (19 - 28)mmHg
   PAP: (49 mmHg) / (37 mmHg)
   PCWP: 42 (42 - 42) mmHg
   CO/CI (Fick): (5.7 L/min) / (2.4 L/min/m2)
   Mixed Venous O2% Sat: 64 - 74
   Total In:
                                                                  2,456 mL
                                                                    943 mL
   PO:
   TF:
   IVF:
                                                                  1,856 mL
                                                                    943 mL
   Blood products:
   Total out:
                                                                  1,725 mL
                                                                    815 mL
   Urine:
                                                                  1,425 mL
                                                                    715 mL
   NG:
                                                                    300 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    731 mL
                                                                    128 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 814 (454 - 894) mL
   PS : 12 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 18 cmH2O
   SpO2: 97%
   ABG: 7.43/34/95.[**Numeric Identifier **]/21/0
   Ve: 13.6 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Gen: Nad, Minimally responsive to sternal rub, Nonresponsive to verbal
   stimuli
   HEENT: PERRL
   CV: distant HS, RRR, S3 gallop, [**3-24**] Systlolic murmur at apex
   CHEST: CTA anteriorly
   ABD: Moderately distended, + faints BS, No HSM appreciated
   EXT: 2+ pitting edema, Warm
   Labs / Radiology
   275 K/uL
   12.2 g/dL
   105 mg/dL
   2.5 mg/dL
   21 mEq/L
   3.8 mEq/L
   100 mg/dL
   94 mEq/L
   130 mEq/L
   36.0 %
   16.2 K/uL
        [image002.jpg]
                             [**2124-7-9**]  02:50 PM
                             [**2124-7-9**]  03:03 PM
                             [**2124-7-9**]  03:04 PM
                             [**2124-7-9**]  06:05 PM
                             [**2124-7-9**]  06:20 PM
                             [**2124-7-9**]  06:29 PM
                             [**2124-7-9**]  11:20 PM
                             [**2124-7-9**]  11:27 PM
                             [**2124-7-10**]  06:14 AM
                             [**2124-7-10**]  06:21 AM
   WBC
   16.2
   Hct
   46
   36
   40
   36.0
   Plt
   275
   Cr
   2.5
   TCO2
   23
   25
   25
   23
   Glucose
   127
   116
   108
   105
   Other labs: PT / PTT / INR:18.3/ 106.3/1.7, CK / CKMB /
   Troponin-T:80/7/0.02, ALT / AST:[**2054**]/863, Alk Phos / T Bili:146/1.0,
   Lactic Acid:1.2 mmol/L, Albumin:3.6 g/dL, LDH:1311 IU/L, Ca++:8.1
   mg/dL, Mg++:3.1 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
   53yo male with history of obesity, OSA, and depression who p/w
   increasing SOB x5d and found to have 3+ MR [**First Name (Titles) **] [**Last Name (Titles) 4298**] TTE with
   hemodynamics consistent with cardiogenic shock. Now s/p intubation and
   cardioversion x1.
   .
   # Cardiogenic shock: Suspect [**3-20**] MR given acute onset 5d ago and no
   known hx of MR, but given elevated RIGHT sided pressures there is some
   suggestion that this might be a chronic process. Depressed EF may be
   partially due to rhythm disturbance. Patient likely had chronic process
   that was exacerbated by several days of Aflutter that precipitated
   cardiogenic shock. CI improved up to 2.4. Warm extremities reassuring
   that shock is improving on Milrinone, Levophed and Dopamine. Failed
   cardioversion yesterday. LFTs improving but renal function unchanged
   suggesting possible component of ATN. Bordeline high temperatures
   likely reflect improving cardiogenic shock rather than sepsis. Elevated
   PA and PCWP with low pulmonary vascular resistance further support
   cardiogenic shock.
   - Try to d/c Dopamine today
   - Continue Milrinone
   - Lasix gtt for diuresis given fluid overload. Will test bolus with
   Diuril 500 mg IVx1 this am.
   - Monitor Fick Q change of shift and with change in clinical status
   .
   # Atrial Flutter: S/p 2 failed cardioversions. Patient did convert for
   some time yesterday, but did go back into flutter indicating that
   patient will likely require more improvement in volume status prior to
   being able to maintain NSR. Plan to continue amiodarone and try to
   improve volume status with lasix and diuril to help improve RA
   geometry.
   - Continue Amiodarone
   - Continue heparin gtt
   - Plan to use lasix and diuril for goal I/O negative 500 cc to 1L. Will
   minimize IV intake as much as possible.
   - EP consult tomorrow re: possible need for ablation
   .
   # Coronaries: Biomarkers flat. ROMI complete.
   ASA 325
   # Respiratory failure: Intubated [**7-9**] peri-cardioversion. Hypoxic
   likely due to medication (ativan) and pulmonary edema. Since fluid
   status has not been improved will defer extubation for now. Became
   tachypnic with SBT today.
   - Continue PS ventilation 12/5
   .
   # Abdominal distention: KUB unremarkable. NG tube with mild to moderate
   output. [**Month (only) 11**] be functional ileus in setting of sepsis and depressive
   agents.
   - Continue NG to low suction
   .
   # Transaminitis: suspect shock liver. LFTs improving. INR elevated but
   stable.
   .  Trend daily INR, glucose, and ALT/AST.
   .
   # ARF: Suspect ATN in setting of cardiogenic shock as noted above.
   Since Cr has not improved with better hemodynamics, I assume more
   likely ATN
   - try to augment cardiac output.
   - renal dose meds
   - if worsens, will d/w renal
   # Hyponatremia: suspect [**3-20**] cardiogenic shock.  Total body up but renal
   perfusion low.
   .
   # FEN: NPO for now.  No TFs given NG output.
   .
   # ACCESS: Cordis with Swan and IJ access. A line. Peripherals
   .
   # Proph: Hep gtt, bowel regimen, HISS
   .
   # Pain control: appears comfortable
   .
   # Code: full
   .
   # Contact; Wife [**Telephone/Fax (1) 6146**] is HCP
   .
   # Dispo: CCU
   ICU Care
   Nutrition:
   Glycemic Control:  ISS. No po intake at this time.
   Lines:
   18 Gauge - [**2124-7-9**] 01:10 AM
   Arterial Line - [**2124-7-9**] 04:12 AM
   PA Catheter - [**2124-7-9**] 05:30 AM
   Cordis/Introducer - [**2124-7-9**] 06:55 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: ppi
   VAP:  per protocol
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU care for now

2124-07-11 06:59:00 Physician Resident Progress Note
Chief Complaint: none
   24 Hour Events:
   - Weaned off of dopamine at 11:30am; patient converted to sinus rhythm
   with first degree AV block
   - Plan to call EP consult on [**2124-7-11**] if reverts to atrial flutter
   - Diuril 500mg IV x1 with good diuresis
   - Started on Protonix 40mg IV daily as NPO
   - I/O (2pm):  -30cc, with excellent urine output (had not yet received
   Diuril)
   - Aspirin discontinued as no evidence of CAD and guaiac positive NG
   output
   - Amiodarone renewed (as of 6pm, has received 900mg total)
   - 3pm:  Creatinine stable; potassium repleted; given slow hct drop and
   guaiac positive OG output, did OG lavage - negative
   - Abdominal radiograph to assess OGT positioning (advanced) -
   appropriate
   - 11pm (checked given aggressive diuresis):  Potassium 3.4, repleted
   with KCl 40meq IV x1; Mg 3.1; ionized calcium 1.05, repleted with
   calcium gluconate 2g IV x1
   - Hemodynamic trends:  CO decreasing, HR stable, so likely SV
   decreasing; in terms of SV, preload still high, afterload similar,
   likely contractility reduced (due to stopping dopamine this morning);
   MVO2 slightly down (60), lactate slightly up (1.8)
   - I/O (11:30pm):  -2L; Given this and rising lactate and MVO2, Lasix
   gtt rate decreased
   Allergies:
   Tegretol (Oral) (Carbamazepine)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,550 units/hour
   Amiodarone - 0.5 mg/min
   Propofol - 25 mcg/Kg/min
   Furosemide (Lasix) - 15 mg/hour
   Milrinone - 0.375 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-7-10**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from [**Year (4 digits) 4298**] except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-7-11**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.6
C (99.7
   HR: 119 (101 - 137) bpm
   BP: 116/78(91) {89/56(67) - 116/78(91)} mmHg
   RR: 14 (13 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 119.3 kg ([**Year (4 digits) 4298**]): 118.2 kg
   Height: 72 Inch
    CVP: 23 (19 - 27)mmHg
   PAP: (53 mmHg) / (36 mmHg)
   PCWP: 34 (34 - 34) mmHg
   CO/CI (Fick): (4.4 L/min) / (1.9 L/min/m2)
   Mixed Venous O2% Sat: 58 - 62
   Total In:
                                                                  2,636 mL
                                                                    725 mL
   PO:
   TF:
   IVF:
                                                                  2,546 mL
                                                                    725 mL
   Blood products:
   Total out:
                                                                  4,875 mL
                                                                  1,925 mL
   Urine:
                                                                  4,525 mL
                                                                  1,725 mL
   NG:
                                                                    350 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,239 mL
                                                                 -1,200 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 653 (587 - 653) mL
   PS : 7 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 21
   PIP: 13 cmH2O
   SpO2: 98%
   ABG: 7.45/41/126/23/4
   Ve: 9.6 L/min
   PaO2 / FiO2: 315
   Physical Examination
   Gen: Nad, Minimally responsive to sternal rub, Nonresponsive to verbal
   stimuli
   HEENT: PERRL
   CV: distant HS, RRR, S3 gallop, [**3-24**] Systlolic murmur at apex
   CHEST: CTA anteriorly
   ABD: Moderately distended, + faints BS, No HSM appreciated
   EXT: 2+ pitting edema, Warm
   Labs / Radiology
   282 K/uL
   12.2 g/dL
   106 mg/dL
   2.4 mg/dL
   23 mEq/L
    3.4 mEq/L
   97 mg/dL
   94 mEq/L
   135 mEq/L
   35.6 %
   13.9 K/uL
        [image002.jpg]
                             [**2124-7-9**]  11:20 PM
                             [**2124-7-9**]  11:27 PM
                             [**2124-7-10**]  06:14 AM
                             [**2124-7-10**]  06:21 AM
                             [**2124-7-10**]  03:12 PM
                             [**2124-7-10**]  04:18 PM
                             [**2124-7-10**]  09:46 PM
                             [**2124-7-10**]  10:04 PM
                             [**2124-7-11**]  05:16 AM
                             [**2124-7-11**]  05:27 AM
   WBC
   16.2
   13.9
   Hct
   36.0
   34.3
   35.6
   Plt
   275
   282
   Cr
   2.4
   2.5
   2.4
   TCO2
   25
   23
   28
   28
   29
   Glucose
   116
   108
   113
   105
   120
   110
   106
   Other labs: PT / PTT / INR:15.5/109.0/1.4, CK / CKMB /
   Troponin-T:80/7/0.02, ALT / AST:1639/517, Alk Phos / T Bili:149/0.9,
   Lactic Acid:1.4 mmol/L, Albumin:3.6 g/dL, LDH:1311 IU/L, Ca++:7.8
   mg/dL, Mg++:3.1 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   53yo male with history of obesity, OSA, and depression who p/w
   increasing SOB x5d and found to have 3+ MR [**First Name (Titles) **] [**Last Name (Titles) 4298**] TTE with
   hemodynamics consistent with cardiogenic shock. Now s/p intubation and
   cardioversion x1.
   .
   # Cardiogenic shock: Suspect [**3-20**] MR given acute onset 5d ago and no
   known hx of MR, but given elevated RIGHT sided pressures there is some
   suggestion that this might be a chronic process. Depressed EF may be
   partially due to rhythm disturbance. Patient likely had chronic process
   that was exacerbated by several days of Aflutter that precipitated
   cardiogenic shock. CI improved up to 2.4. Warm extremities reassuring
   that shock is improving on Milrinone, Levophed and Dopamine. Failed
   cardioversion yesterday. LFTs improving but renal function unchanged
   suggesting possible component of ATN. Bordeline high temperatures
   likely reflect improving cardiogenic shock rather than sepsis. Elevated
   PA and PCWP with low pulmonary vascular resistance further support
   cardiogenic shock.
   - Try to d/c Dopamine today
   - Continue Milrinone
   - Lasix gtt for diuresis given fluid overload. Will test bolus with
   Diuril 500 mg IVx1 this am.
   - Monitor Fick Q change of shift and with change in clinical status
   .
   # Atrial Flutter: S/p 2 failed cardioversions. Patient did convert for
   some time yesterday, but did go back into flutter indicating that
   patient will likely require more improvement in volume status prior to
   being able to maintain NSR. Plan to continue amiodarone and try to
   improve volume status with lasix and diuril to help improve RA
   geometry.
   - Continue Amiodarone
   - Continue heparin gtt
   - Plan to use lasix and diuril for goal I/O negative 500 cc to 1L. Will
   minimize IV intake as much as possible.
   - EP consult tomorrow re: possible need for ablation
   .
   # Coronaries: Biomarkers flat. ROMI complete.
   ASA 325
   # Respiratory failure: Intubated [**7-9**] peri-cardioversion. Hypoxic
   likely due to medication (ativan) and pulmonary edema. Since fluid
   status has not been improved will defer extubation for now. Became
   tachypnic with SBT today.
   - Continue PS ventilation 12/5
   .
   # Abdominal distention: KUB unremarkable. NG tube with mild to moderate
   output. [**Month (only) 11**] be functional ileus in setting of sepsis and depressive
   agents.
   - Continue NG to low suction
   .
   # Transaminitis: suspect shock liver. LFTs improving. INR elevated but
   stable.
   .  Trend daily INR, glucose, and ALT/AST.
   .
   # ARF: Suspect ATN in setting of cardiogenic shock as noted above.
   Since Cr has not improved with better hemodynamics, I assume more
   likely ATN
   - try to augment cardiac output.
   - renal dose meds
   - if worsens, will d/w renal
   # Hyponatremia: suspect [**3-20**] cardiogenic shock.  Total body up but renal
   perfusion low.
   .
   # FEN: NPO for now.  No TFs given NG output.
   .
   # ACCESS: Cordis with Swan and IJ access. A line. Peripherals
   .
   # Proph: Hep gtt, bowel regimen, HISS
   .
   # Pain control: appears comfortable
   .
   # Code: full
   .
   # Contact; Wife [**Telephone/Fax (1) 6146**] is HCP
   .
   # Dispo: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-7-9**] 01:10 AM
   Arterial Line - [**2124-7-9**] 04:12 AM
   PA Catheter - [**2124-7-9**] 05:30 AM
   Cordis/Introducer - [**2124-7-9**] 06:55 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-07-12 07:40:00 Physician Resident Progress Note
TITLE: SUB-INTERN PROGRESS NOTE
   24 Hour Events:
   - Dr. [**First Name (STitle) **] (CHF consult) requested cardiac cath to eval for CAD due to
   concern for ischemic cardiomyopathy. Cath showed clean coronaries so
   heparin was restarted. Carotid massage during cath suggested sinus
   tachycardia more likely than atrial tachycardia, so cardioversion was
   deemed unnecessary. To increase CI, IABP was placed.
   - Apnic yesterday in setting of switching from Propofol to
   Fentanyl/versed, required switching to assist control ventilation
   - [**First Name (STitle) **] - Mild [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]. LV wall thicknesses normal. LV mildly dilated.
   There is severe global left ventricular hypokinesis (LVEF = 20-25 %).
   Restrictive left ventricular filling pattern suggestive of severe
   diastolic dysfunction. RV is dilated with moderate global free wall
   hypokinesis. Normal aortic valve. 3 + MR. [**First Name (Titles) **] [**Last Name (Titles) **] htn.
   - Work up started for cardiomyopathy. C. Cath as above. Also added
   Ferritin, [**Doctor First Name **], ESR, RF, SPEP and UPEP
   - Given diuril bolus in AM with lasix gtt, had good UOP response.
   - Started Aspirin full strength
   - I/O - Neg. 2.5 L at 1800
   - CI 1.9 pre-IABP. 2.1 post IABP. Mixed venous sat 57 >61 >67 > 63
   - ABG was slightly worse with CO2 at 60
   - possible contraction alkalosys on electrolytes this AM, possibly
   overdiuresis
   Allergies:
   Tegretol (Oral) (Carbamazepine)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Amiodarone - 0.5 mg/min
   Milrinone - 0.5 mcg/Kg/min
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-7-12**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (99
   HR: 113 (86 - 121) bpm
   BP: 97/76(87) {77/54(70) - 116/80(93)} mmHg
   RR: 18 (8 - 18) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 117 kg (admission): 118.2 kg
   Height: 72 Inch
    CVP: 24 (17 - 24)mmHg
   PAP: (54 mmHg) / (34 mmHg)
   1PM (pre-IABP): CI=1.8; CO=4.3; SVR=1100; SvO2=57; Hb=12.2
   6PM (post-IABP): CI=2.1; CO=4.9; SVR=925; SvO2=61
   10PM: CI=2.5; CO=5.9; SVR=919; SvO2=67
   5AM: CI=2.2; CO=5.4; SVR=850; SvO2=63
   IABP:
   Setting: 1:1, Systolic 82 (U), 87 (A); Diastolic 87 ([**Month (only) **]), PAEDP 65,
   BAEDP 63, IABP Mean 75, Systolic Unloading -5, Diastolic Unloading 2
   Total In:
                                                                  2,478 mL
                                                                    862 mL
   PO:
                                   TF:
   IVF:
                                                                  2,478 mL
                                                                    802 mL
   Blood products:
   Total out:
                                                                  5,965 mL
                                                                    875 mL
   Urine:
                                                                  5,545 mL
                                                                    800 mL
   NG:
                                                                    420 mL
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,487 mL
                                                                    -12 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: Assist Control
   Tidal Volume (Set): 500 mL
   Tidal Volume (Spontaneous): 803 (525 - 803) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   Ppeak: 30 cm H2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   SpO2: 96%
   ABG: 7.35/60/100/31/4
   Ve: 7.2 L/min
   PaO2 / FiO2: 250
   Physical Examination
   HEENT: pupils pinpoint and minimally reactive
   CV: gallop present, balloon pump clearly heard
   Lungs:
   Abdomen: BS+, medium firmness
   Ext: warm, well-perfused, with 1+ pitting edema
   Labs / Radiology
   278 K/uL
   12.2 g/dL
   104 mg/dL
   2.1 mg/dL
   31 mEq/L
   4.3 mEq/L
   87 mg/dL
   97 mEq/L
   141 mEq/L
   36.2 %
   14.3 K/uL
        [image002.jpg]
   ABG:
                                     pH
                                    7.35
                                    pCO2
                                     60
                                     pO2
                                     100
                                    HCO3
                                     35
                                   BaseXS
                                      4
                             [**2124-7-10**]  04:18 PM
                             [**2124-7-10**]  09:46 PM
                             [**2124-7-10**]  10:04 PM
                             [**2124-7-11**]  05:16 AM
                             [**2124-7-11**]  05:27 AM
                             [**2124-7-11**]  04:43 PM
                             [**2124-7-11**]  09:48 PM
                             [**2124-7-11**]  10:09 PM
                             [**2124-7-12**]  05:13 AM
                             [**2124-7-12**]  05:34 AM
   WBC
   13.9
   13.7
   14.3
   Hct
   35.6
   36.9
   36.2
   Plt
   282
   280
   278
   Cr
   2.4
   2.3
   2.2
   2.1
   TCO2
   28
   28
   29
   34
   35
   Glucose
   120
   110
   110
   106
   111
   120
   104
   Other labs: PT / PTT / INR:15.3/78.2/1.4, CK / CKMB /
   Troponin-T:30/7/0.02, ALT / AST:937/197, Alk Phos / T Bili:123/1.1,
   Lactic Acid:1.6, Albumin:3.6 g/dL, LDH:419 IU/L, Ca++:8.4 mg/dL,
   Mg++:3.1 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN
   53yo male with history of obesity, OSA, and depression who p/w
   increasing SOB x5d, found to have biventricular systolic dysfunction,
   restrictive LV dysfunction, 3+ MR [**First Name (Titles) **] [**Last Name (Titles) **] with hemodynamics consistent
   with cardiogenic shock. Now s/p intubation, cardioversion, cardiac cath
   (clean coronaries), IABP placement.
   # CARDIOGENIC SHOCK. The patient has cardiogenic shock as evidenced by
   hemodynamic instability and requiring milrinone at 0.5 and IABP at 1:1
   to maintain CI, and CI is still not even within normal limits.
   [**Last Name (Titles) **] showed LVEF 20-25% (systolic dysfunction) and restrictive LV
   filling (diastolic dysfunction), as well as 3+ mitral regurgitation.
   Fick values over the past 24 hours indicate that his CI is improving on
   increased dose of milrinone and the placement of his IABP at 1:1 (1PM
   yesterday CI=1.8, SvO2=57, by 5AM today CI=2.2, SvO2=63):
   Increased milrinone to 0.5. IABP placed yesterday, at 1:1 with MAPs in
   80s.
   Urine output has been 150-300cc per hour in last 24 hours.
   CXR looks stable in terms of pulmonary congestion.
   Plan: continue balloon pump 1:1, milrinon at 0.5. HR is controlled in
   80-90s, but if 110s then we can consider BB to better fill
   diastolically. Continue to follow CI and diuresis, goal -2L. While
   providing supportive care, continue to investigate etiology. Sent ESR,
   [**Doctor First Name **], RF, spep/upep, ... could be tachy, could be valvular disease, will
   discuss with Dr. [**First Name (STitle) **] about cardiac transplant, will call liver team
   pre-transplant.
   Cardiomyopathy workup to date includes [**First Name (STitle) **] (MR 3+), cath (clean
   coronaries), ESR, [**Doctor First Name **], RF, spep/upep, iron studies.
   The potential etiologies of this patient's cardiomyopathy are vast,
   including: ischemic, tachycardia-induced, valvular, infectious
   ([**Location (un) **] [self-limited], HIV, other viral and non-viral), substance
   abuse (alcohol, cocaine), infiltrative (sarcoid, amyloidosis [SPEP,
   UPEP], hemochromatosis), connective tissue disease (high [**Doctor First Name **] titer),
   hypertensive, myocarditis (could check Fas and FasL), medication
   (doxorubicin, ?seroquel). Unfortunately, nearly 50% of the time,
   work-up will turn out idiopathic (see [**Last Name (un) 6252**] et [**Doctor Last Name **], NEJM [**2115**]). He is
   probably too unstable for endomyocardial biopsy. Will investigate these
   etiologies as appropriate.
   For transplant work-up, will need Hep B/C, CMV, HIV, carotid
   non-invasive study, abd US to r/o aortic dissection, liver consult.
   His MR is likely chronic, not acute, because his PCWP was 48 (which is
   more elevated than expected in a healthy person with acute MR).
   ## RHYTHM: He is in sinus rhythm now, on amiodarone. He did not get
   cardioverted in the lab today
   He is on lasix 15
   Amiodarone to keep him in sinus rhythm. Will complete load of 10g, then
   we can taper down... Calculate how much he got it (as of 6PM he got
   900mg, when he wakes up he can get high dose PO). Then 200mg PO bid
   when he wakes up and the loading is done.
   In the cath lab, he had carotid massage which slowed his HR. His
   responsiveness to this vasovagal maneuver indicates his tachyarrhythmia
   was less likely a-flutter. His increased HR was more likely physiologic
   response to cardiogenic shock,
   His a-flutter from the day before seemed to convert into a
   tachyarrhythmia after the dopamine was weaned off, which makes sense
   because dopamine has beta-adrenergic effect.
   His HR is better now because of the balloon pump. His tachyacardia was
   physiology ic because of the shock. Now wit hthe balloon the
   hemodynamics are better, so his HR is lower.
   # RESPIRATORY FAILURE
   [**Name6 (MD) 1030**] the RN was switching from propofol to fentanyl/versed, the
   patient became apneic. He was placed on assist control. *If overnight
   he overbreathes the vent settings, then we can switch him to PS in the
   morning. If he does not overbreath the vent, then we can wean sedation
   in the morning around rounds time, and wean the AC to minimal settings,
   and give him a "breathing trial." If he has spontaenous breaths, we can
   place him on PS again.
   NOTE:
   You can catually terminate v-tach with carotid massage.
   # ELEVATED PAP
   - it is contraindication to heart transplant if it is primary.
   - The etiology is still in the works. If it is due to CHF, we would
   expect these values to get better as he is now on increased milrinone
   and on the balloon pump.
   - h/o OSA, which could be etiology
   .
   # Cardiogenic shock:: CI drifting down to 1.9 from 2.4 yesterday likely
   due to reduced tachycardia and elevated MAPs.  Interestingly MAPs
   higher since dopamine stopped yesterday. Elevated PA and PCWP with low
   pulmonary vascular resistance further support cardiogenic shock.
   - Increase Milrinone  to 2.5 to reduce MAPs and impove ionotropy
   - Lasix gtt for diuresis given fluid overload. Will bolus with Diuril
   500 mg IVx1 this am after such good response yesterday.
   - Monitor Fick Q change of shift and with change in clinical status
   - Repeat [**Name6 (MD) **] today
   - Complete Cardiomyopathy work up
   - CHF consult today
   .
   # Atrial Flutter: EKG c/w Sinus tach this am. Appeared to convert after
   dopamine stopped yesterday. Plan to continue amiodarone and try to
   improve volume status with lasix and diuril to help improve RA
   geometry.
   - Continue Amiodarone. Patient 900 mg into load as of 6 pm last night.
   - Continue heparin gtt
   - Plan to use lasix and diuril for goal I/O negative 1 L.
   -  [**Last Name (un) 6202**] EP consult for now
   .
   # Coronaries: Biomarkers flat. ROMI complete.
   - ASA 325
   - Will need cath prior to dispo to eval for ischemic cardiomyopathy
   # Respiratory failure: Intubated [**7-9**] peri-cardioversion. Fluid status
   improved.
   - Continue PS ventilation 12/5 will defer Extubation until tomorrow in
   case of cath today
   .
   # Abdominal distention: KUB unremarkable. NG output more bilious. Hct
   stable.
   - Clamp NG tube
   .
   # Transaminitis: suspect shock liver. LFTs improving. INR elevated but
   stable.
   .  Trend daily INR, glucose, and ALT/AST.
   .
   # ARF: Suspect ATN in setting of cardiogenic shock as noted above.
   Since Cr has not improved with better hemodynamics, I assume more
   likely ATN
   - try to augment cardiac output.
   - renal dose meds
   - if worsens, will d/w renal
   # FEN: NPO for now.  No TFs given NG output. Will trial TFs if clamped
   NG tube successful.
   .
   # ACCESS: Cordis with Swan and IJ access. A line. Peripherals
   .
   # Proph: Hep gtt, bowel regimen, HISS
   .
   # Pain control: appears comfortable
   .
   # Code: full
   .
   # Contact; Wife [**Telephone/Fax (1) 6146**] is HCP
   .
   # Dispo: CCU
   Patient remains Hemodynamically unstable with dependence on IABP and
   milrinone.  Respiratory status compromised by volume overload and
   metabolic alkalosis.  Hold diuretics for now.  Monitor I/O and
   acid/base status.  Follow creatinine.  Transplant work-up in parallel
   should be become IABP and pressor dependent
   OUTLINE:
   1. shock
   2. rhythm. flutter resolved with amio and diuresis. loaded up amio 300
   in the cath lab, cont on amio drip, appears in sinus. Goal HR 80-90 to
   augment filling pressures. ?start BB.
   3. coronaries - clean
   4. respiratory failure. intubated for airway protection. to extubate,
   goal diuresed and MS stable. He needs to be still for the balloon pump,
   so keep on fentanyl/versed.
   5. ARF.
   6. Pre-transplant evaluation.
   7. Trans-aminitis
   8. NG-tube clamped
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-7-9**] 01:08 AM
   PA Catheter - [**2124-7-9**] 05:30 AM
   Cordis/Introducer - [**2124-7-9**] 06:55 AM
   IABP line - [**2124-7-11**] 04:00 PM
   Arterial Line - [**2124-7-11**] 04:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-07-13 07:06:00 Physician Resident Progress Note
Chief Complaint: None
   24 Hour Events:
   - Updated daughter s/p intra-aortic balloon pump
   - Stopped Lasix drip given even balance at 1300. Restarted at MN.
   - Liver recs: unlikely cirrhotic; no biopsy needed; no further work-up
   required.
   - ESR 21, RF neg, [**Doctor First Name **] neg
   - Pan-cultured (sputum, urine and blood) for low grade temp overnight,
   PND.
   - PM K 2.8 and 3.0 on repeat: Rec'd Postassium 60mg PO, then 80mg PO.
   Allergies:
   Tegretol (Oral) (Carbamazepine)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 1,300 units/hour
   Amiodarone - 0.5 mg/min
   Fentanyl - 100 mcg/hour
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Fentanyl - [**2124-7-12**] 04:00 PM
   Midazolam (Versed) - [**2124-7-13**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from [**Year (4 digits) 4298**] except as noted below
   Review of systems:
   Appears comfortable
   Flowsheet Data as of  [**2124-7-13**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 120 (82 - 120) bpm
   BP: 84/64(73) {82/56(72) - 101/73(86)} mmHg
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113 kg ([**Year (4 digits) 4298**]): 118.2 kg
   Height: 72 Inch
    CVP: 16 (11 - 199)mmHg
   PAP: (46 mmHg) / (31 mmHg)
   PCWP: 21 (21 - 21) mmHg
   CO/CI (Fick): (7.3 L/min) / (3 L/min/m2)
   Mixed Venous O2% Sat: 67 - 69
   Total In:
                                                                  2,653 mL
                                                                    823 mL
   PO:
   TF:
                                                                    267 mL
                                                                    213 mL
   IVF:
                                                                  2,046 mL
                                                                    611 mL
   Blood products:
   Total out:
                                                                  3,515 mL
                                                                    810 mL
   Urine:
                                                                  3,440 mL
                                                                    810 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                   -862 mL
                                                                     13 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   SpO2: 96%
   ABG: 7.43/59/134/35/12
   Ve: 7.8 L/min
   PaO2 / FiO2: 335
   Physical Examination
   HEENT: pupils pinpoint and minimally reactive
   CV: gallop present, balloon pump clearly heard
   Lungs:
   Abdomen: BS+, medium firmness
   Ext: warm, well-perfused, with 1+ pitting edema
   Labs / Radiology
   238 K/uL
   11.8
   140 mg/dL
   1.5 mg/dL
   35 mEq/L
   4.0 mEq/L
   66 mg/dL
   104 mEq/L
   148 mEq/L
   35.5
   16.3 K/uL
        [image002.jpg]
                             [**2124-7-12**]  05:13 AM
                             [**2124-7-12**]  05:34 AM
                             [**2124-7-12**]  08:52 AM
                             [**2124-7-12**]  12:27 PM
                             [**2124-7-12**]  12:40 PM
                             [**2124-7-12**]  03:09 PM
                             [**2124-7-12**]  06:19 PM
                             [**2124-7-13**]  04:22 AM
                             [**2124-7-13**]  04:44 AM
                             [**2124-7-13**]  04:46 AM
   WBC
   14.3
   16.3
   Hct
   36.2
   42
   35.5
   35.5
   Plt
   278
   238
   Cr
   2.1
   1.8
   1.5
   TCO2
   35
   31
   37
   35
   40
   Glucose
   120
   104
   128
   140
   Other labs: PT / PTT / INR:14.6/71.4/1.3, CK / CKMB /
   Troponin-T:30/7/0.02, ALT / AST:937/197, Alk Phos / T Bili:123/1.1,
   Lactic Acid:1.6, Albumin:3.6 g/dL, LDH:419 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   53yo male with history of obesity, OSA, and depression who p/w
   increasing SOB x5d and found to have 3+ MR [**First Name (Titles) **] [**Last Name (Titles) 4298**] TTE with
   hemodynamics consistent with cardiogenic shock. Now s/p intubation and
   IABP placement
   .
   # Cardiogenic shock:: CI improved to 3 from 2.4 last night, but this is
   in the setting of fevers and tachycardia which could represent
   infection.  EF 20% with signs of diastolic dysfunction on TTE. LV and
   RV with global hypokinesis. Clean coronaries make ischemic
   cardiomyopathy unlikely. Cardiomyopathy workup underway. ESR 21. TSh
   normal. RF neg. [**Doctor First Name **] neg. Iron studies not consistent with
   hemochromatosis. HIV pending.
   - Will consider weaning milirone and continue IABP at 1;1
   - Monitor Fick Q change of shift and with change in clinical status
   - continue cardiomyopathy work up.
   .
   # Tachycardia: EKG c/w Sinus tach this am. Appeared to convert after
   dopamine stopped yesterday. Plan to continue amiodarone and try to
   improve volume status with lasix and diuril to help improve RA
   geometry. Some initial concern for sepsis given reduced SVR, fevers and
   tachycardia.
   - Continue Amiodarone
   - Continue heparin gtt
   .
   # Fever: Will culture today and repeat CXR. Concern for VAP/HAP so will
   start anbx coverage. Abd exam benign.
   - Start Vanco 1 g Q12 and Zosyn 4.5 q8
   - Will d/c swan line and culture tip
   .
   # Hypernatremia: Likely due to low volume. Free water deficit roughly 4
   liters. Will replete
 deficit with D5W.
   - Start 125 cc /hr D5w for 1.5 L
   .
   # Coronaries: Biomarkers flat. ROMI complete. Coronaries clean on
   Cath.
   - Will reduce ASA to 81 for primary prevention
   # Respiratory failure: Intubated [**7-9**] peri-cardioversion. Fluid status
   improved now.
   - Will trial with PS today
   .
   # Acid base status: Continues to have contraction alkalosis with
   superimposed respiratory acidosis. Will goal I/o even today and replete
   free water as above.
   .
   # Transaminitis: suspect shock liver. LFTs improving. INR elevated but
   stable.
   .  Trend daily INR, glucose, and ALT/AST.
   .
   # ARF: Suspect ATN in setting of cardiogenic shock as noted above. Cr
   improved to 1.5 today.
   # FEN: On TFs. Appreciate nutrition input. .
   .
   # ACCESS: Cordis with Swan and IJ access. A line. Peripherals
   .
   # Proph: Hep gtt, bowel regimen, HISS
   .
   # Pain control: appears comfortable
   .
   # Code: full
   .
   # Contact; Wife [**Telephone/Fax (1) 6146**] is HCP
   .
   # Dispo: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-7-9**] 01:08 AM
   Arterial Line - [**2124-7-9**] 04:12 AM
   PA Catheter - [**2124-7-9**] 05:30 AM
   Cordis/Introducer - [**2124-7-9**] 06:55 AM
   IABP line - [**2124-7-11**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-07-14 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Self-extubated on rounds
   - Started vanco/zosyn for empiric pulmonary coverage given fevers,
   decreased SVR
   - Lasix gtt discontinued; diuresed with Lasix 80mg IV x1
   - [** **] on back/thighs. Drug [** 5286**] vs. contact dermatitis. [**Name2 (NI) 767**]
   distribution, going with contact dermatitis at this time. Antibiotics
   not altered. Will continue to monitor.
   - Subclavian pulled and tip sent for culture. Cordis in place. Unable
   to place subclavian given agitation
   - D5W for hypernatremia
   - 3pm: Atrial fibrillation with RVR, rate 130-150s; amiodarone 150mg
   bolus, then metoprolol 5mg IV. Discussed with Dr. [**First Name (STitle) **]; per his recs,
   started metoprolol 5mg IV Q4 hours and digoxin load.
   - 6pm:  Very agitated, pulling at lines. Zydis 2.5mg PO x1. Repeated
   x1.
   - Medication reconciliation for psychiatric meds - updated below
   Allergies:
   Tegretol (Oral) (Carbamazepine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2124-7-13**] 09:00 PM
   Piperacillin - [**2124-7-14**] 02:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2124-7-13**] 08:47 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from [**Year (4 digits) 4298**] except as noted below
   Review of systems:
   Non verbal
   Flowsheet Data as of  [**2124-7-14**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.4
C (97.5
   HR: 94 (91 - 140) bpm
   BP: 88/62(75) {78/57(68) - 106/80(89)} mmHg
   RR: 10 (10 - 27) insp/min
   SpO2: 93% 4 L NC
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113 kg ([**Year (4 digits) 4298**]): 118.2 kg
   Height: 72 Inch
    CVP: 16 (14 - 16)mmHg
   PAP: (52 mmHg) / (29 mmHg)
   PCWP: 25 (25 - 25) mmHg
   Total In:
                                                                  3,396 mL
                                                                    927 mL
   PO:
                                                                    180 mL
   TF:
                                                                    311 mL
   IVF:
                                                                  2,905 mL
                                                                    927 mL
   Blood products:
   Total out:
                                                                  2,820 mL
                                                                  1,000 mL
   Urine:
                                                                  2,820 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    576 mL
                                                                    -73 mL
   Respiratory support
   Physical Examination
   GEN: NAD, Difficult to arouse, Does not respond to verbal stimuli, does
   withdraw to pain
   HEENT: pupils pinpoint and minimally reactive
   CV: gallop present, balloon pump clearly heard
   Lungs: CTA anteriorly
   Abdomen: BS+, medium firmness
   Ext: warm, well-perfused, with 2+ pitting edema to knees
   SKIN: Erythematous macular [**Year (4 digits) 5286**] on back, elbows, thighs sparing central
   spine
   Labs / Radiology
   194 K/uL
   11.0 g/dL
   116 mg/dL
   1.7 mg/dL
   37 mEq/L
   3.4 mEq/L
   56 mg/dL
   104 mEq/L
   148 mEq/L
   33.6 %
   15.3 K/uL
        [image002.jpg]
                             [**2124-7-13**]  04:44 AM
                             [**2124-7-13**]  04:46 AM
                             [**2124-7-13**]  09:32 AM
                             [**2124-7-13**]  10:06 AM
                             [**2124-7-13**]  01:07 PM
                             [**2124-7-13**]  01:13 PM
                             [**2124-7-13**]  06:08 PM
                             [**2124-7-13**]  09:10 PM
                             [**2124-7-14**]  04:07 AM
                             [**2124-7-14**]  04:20 AM
   WBC
   15.3
   Hct
   35.5
   33.6
   Plt
   194
   Cr
   1.6
   1.7
   TCO2
   40
   40
   38
   38
   36
   38
   37
   Glucose
   119
   116
   Other labs: PT / PTT / INR:16.3/80.3/1.5, CK / CKMB /
   Troponin-T:30/7/0.02, ALT / AST:412/86, Alk Phos / T Bili:86/1.0,
   Differential-Neuts:82.6 %, Lymph:8.0 %, Mono:4.7 %, Eos:4.5 %, Lactic
   Acid:1.5 mmol/L, Albumin:3.6 g/dL, LDH:419 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.5 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   53yo male with history of obesity, OSA, and depression who p/w
   increasing SOB x5d and found to have 3+ MR [**First Name (Titles) **] [**Last Name (Titles) 4298**] TTE with
   hemodynamics consistent with cardiogenic shock. Now s/p IABP placement.
   Was intubated for airway protection and now extubated.
   .
   # Cardiogenic shock:: Swan removed yesterday given concern of infection
   risk. CI prior to swan removal much improved to 3. Warm extremities and
   improving LFTs and Renal function indicate that cardiac output still
   appropriate. EF 20% with signs of diastolic dysfunction on TTE. LV and
   RV with global hypokinesis. Clean coronaries make ischemic
   cardiomyopathy unlikely. Cardiomyopathy workup underway. ESR 21. TSh
   normal. RF neg. [**Doctor First Name **] neg. Iron studies not consistent with
   hemochromatosis. HIV negative.
   - Decrease milrinone to 0.375 mg/kg/hr
   - Place cordis on LEFT side and repeat Swan to repeat CI on reduced
   dose milrinone
   - Continue IABP for now with 1:1
   - Conginue heparin gtt with IABP
   - Repeat TTE with and without pump to assess EF and MR
   .
   # Tachycardia: Afib yesterday and now s/p third amiodarone load and
   digoxin added as well. Some initial concern for sepsis given reduced
   SVR, fevers and tachycardia. Afebrile since antibiotics started. .
   - Continue Amiodarone
   - Continue digoxin
   - Continue heparin gtt
   .
   # Fever: No positive culture data.. Concern for VAP/HAP so vanco, zosyn
   started. Swan removed for concern of infection risk and tip cultured.
   Afebrile since abx started.
   - Continue  Vanco 1 g Q12 and Zosyn 4.5 q8
   - F/u cx data
   - Will consider d/c abx tomorrow if remains afebrile
   .
   # Hypernatremia/Metabolic alkalosis: Likely due to low volume in
   setting of aggressive diureiss. Free water deficit roughly 4 liters
   again today. Will replete
 deficit with D5W.
   - Start 125 cc /hr D5w for 2 L
   - Will start diamox to correct alkalosis in hopes of improving
   respiratory drive
   .
   # Coronaries: Biomarkers flat. ROMI complete. Coronaries clean on
   Cath.
   - Will reduce ASA to 81 for primary prevention
   # [**Doctor First Name **]: Given distribution in dependent areas, will assume this is
   likely contact dermatitis. [**Name2 (NI) **] also noticed 2 hours after abx started.
   [**Name2 (NI) **] unchanged in last 24 hrs making drug [**Name2 (NI) 5286**] less likely.
   -          Continue abx for now as above
   -       Bleach free sheets
   # Respiratory failure: Intubated [**7-9**] peri-cardioversion. Fluid status
   improved now.
   - Continue oxygen by NC.
   .
   # Transaminitis: suspect shock liver. LFTs improving. INR elevated but
   stable.
   .  Trend daily INR, glucose, and ALT/AST.
   .
   # ARF: Suspect ATN in setting of cardiogenic shock as noted above. Cr
   stable at 1.7.
   # FEN: NPO for now given MS
   .
   # ACCESS: Cordis in Right IJ. A line. Peripherals
   .
   # Proph: Hep gtt, bowel regimen, HISS
   .
   # Pain control: appears comfortable
   .
   # Code: full
   .
   # Contact; Wife [**Telephone/Fax (1) 6146**] is HCP
   .
   # Dispo: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-7-9**] 01:08 AM
   Arterial Line - [**2124-7-9**] 04:12 AM
   Cordis/Introducer - [**2124-7-9**] 06:55 AM
   IABP line - [**2124-7-11**] 04:00 PM
   20 Gauge - [**2124-7-13**] 01:00 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: none
   VAP:  none
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now

2124-07-15 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Milrinone decreased to 0.37g mg/kg/hr to 0.25 mg/kg/hr
   - TTE - On IABP: There is severe global left ventricular hypokinesis
   (LVEF = 20 %). RV with moderate global free wall hypokinesis. Moderate
   (2+) mitral regurgitation is seen. There is a trivial/physiologic
   pericardial effusion. Off IABP: Overall LV systolic function remains
   severely depressed with some subtle increased systolic thickening of
   the anterior and lateral LV segments (LVEF 25-30%). The degree of
   mitral regurgitation increased to moderate to severe (3+). Compared
   with the prior study (images reviewed) of [**2124-7-11**], overall LV
   systolic function appears slightly improved and the degree of MR less
   - Diamox 250 mg IV BID x2 days started for continued metabolic
   alkalosis
   - Cordis with Swan placed on LEFT IJ. RIGHT sided cordis removed and
   tip cxd. CI 3.4
   - Started FW for Hypernatremia. FW deficit 4 L and loss per hour
   calculated as 45 cc/hr.
   - I/o - goal even. + 1 L at MN.
   Allergies:
   Tegretol (Oral) (Carbamazepine)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2124-7-14**] 02:00 AM
   Vancomycin - [**2124-7-14**] 09:07 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-7-15**] 01:50 AM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Milrinone - 0.375 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Metoprolol - [**2124-7-15**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from [**Year (4 digits) 4298**] except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-7-15**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.9
   HR: 74 (74 - 104) bpm
   BP: 87/67(79) {82/58(72) - 121/99(112)} mmHg
   RR: 10 (9 - 26) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 113 kg ([**Year (4 digits) 4298**]): 118.2 kg
   Height: 72 Inch
    CVP: 21 (11 - 24)mmHg
   PAP: (49 mmHg) / (32 mmHg)
   CO/CI (Fick): (5.6 L/min) / (2.4 L/min/m2)
   Mixed Venous O2% Sat: 63 - 72
   Total In:
                                                                  4,077 mL
                                                                  1,514 mL
   PO:
                                                                    440 mL
   TF:
   IVF:
                                                                  3,637 mL
                                                                  1,514 mL
   Blood products:
   Total out:
                                                                  2,970 mL
                                                                  1,000 mL
   Urine:
                                                                  2,970 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,107 mL
                                                                    514 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.47/43/87.[**Numeric Identifier 274**]/30/6
   Physical Examination
   GEN: NAD, Difficult to arouse, Responds to verbal stimuli and  A and
   Ox2 ([**Hospital3 6320**])
   HEENT: perrla
   CV: gallop present, balloon pump clearly heard, no murmurs or rubs
   Lungs: CTA anteriorly
   Abdomen: BS+, medium firmness
   Ext: warm, well-perfused, with 2+ pitting edema to knees
   SKIN: Erythematous macular [**Hospital3 5286**] on back, elbows, thighs sparing central
   spine
   Labs / Radiology
   175 K/uL
   11.6 g/dL
   122 mg/dL
   1.4 mg/dL
   30 mEq/L
   3.2 mEq/L
   38 mg/dL
   101 mEq/L
   141 mEq/L
   35.6 %
   15.0 K/uL
        [image002.jpg]
                             [**2124-7-13**]  10:06 AM
                             [**2124-7-13**]  01:07 PM
                             [**2124-7-13**]  01:13 PM
                             [**2124-7-13**]  06:08 PM
                             [**2124-7-13**]  09:10 PM
                             [**2124-7-14**]  04:07 AM
                             [**2124-7-14**]  04:20 AM
                             [**2124-7-14**]  02:04 PM
                             [**2124-7-15**]  04:57 AM
                             [**2124-7-15**]  06:42 AM
   WBC
   15.3
   15.0
   Hct
   33.6
   35.6
   Plt
   194
   175
   Cr
   1.6
   1.7
   1.6
   1.4
   TCO2
   38
   38
   36
   38
   37
   32
   Glucose
   119
   116
   104
   122
   Other labs: PT / PTT / INR:15.4/58.8/1.4, CK / CKMB /
   Troponin-T:30/7/0.02, ALT / AST:412/86, Alk Phos / T Bili:86/1.0,
   Differential-Neuts:80.9 %, Lymph:7.5 %, Mono:5.7 %, Eos:5.4 %, Lactic
   Acid:1.5 mmol/L, Albumin:3.6 g/dL, LDH:419 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   53yo male with history of obesity, OSA, and depression who p/w
   increasing SOB x5d and found to have 3+ MR [**First Name (Titles) **] [**Last Name (Titles) 4298**] TTE with
   hemodynamics consistent with cardiogenic shock. Now s/p IABP placement.
   Was intubated for airway protection and now extubated.
   .
   # Cardiogenic shock:: Swan removed yesterday given concern of infection
   risk. CI prior to swan removal much improved to 3. Warm extremities and
   improving LFTs and Renal function indicate that cardiac output still
   appropriate. EF 20% with signs of diastolic dysfunction on TTE. LV and
   RV with global hypokinesis. Clean coronaries make ischemic
   cardiomyopathy unlikely. Cardiomyopathy workup underway. ESR 21. TSh
   normal. RF neg. [**Doctor First Name **] neg. Iron studies not consistent with
   hemochromatosis. HIV negative.
   - Decrease milrinone to 0.375 mg/kg/hr
   - Place cordis on LEFT side and repeat Swan to repeat CI on reduced
   dose milrinone
   - Continue IABP for now with 1:1
   - Conginue heparin gtt with IABP
   - Repeat TTE with and without pump to assess EF and MR
   .
   # Tachycardia: Afib yesterday and now s/p third amiodarone load and
   digoxin added as well. Some initial concern for sepsis given reduced
   SVR, fevers and tachycardia. Afebrile since antibiotics started. .
   - Continue Amiodarone
   - Continue digoxin
   - Continue heparin gtt
   .
   # Fever: No positive culture data.. Concern for VAP/HAP so vanco, zosyn
   started. Swan removed for concern of infection risk and tip cultured.
   Afebrile since abx started.
   - Continue  Vanco 1 g Q12 and Zosyn 4.5 q8
   - F/u cx data
   - Will consider d/c abx tomorrow if remains afebrile
   .
   # Hypernatremia/Metabolic alkalosis: Likely due to low volume in
   setting of aggressive diureiss. Free water deficit roughly 4 liters
   again today. Will replete
 deficit with D5W.
   - Start 125 cc /hr D5w for 2 L
   - Will start diamox to correct alkalosis in hopes of improving
   respiratory drive
   .
   # Coronaries: Biomarkers flat. ROMI complete. Coronaries clean on
   Cath.
   - Will reduce ASA to 81 for primary prevention
   # [**Doctor First Name **]: Given distribution in dependent areas, will assume this is
   likely contact dermatitis. [**Name2 (NI) **] also noticed 2 hours after abx started.
   [**Name2 (NI) **] unchanged in last 24 hrs making drug [**Name2 (NI) 5286**] less likely.
   -          Continue abx for now as above
   -       Bleach free sheets
   # Respiratory failure: Intubated [**7-9**] peri-cardioversion. Fluid status
   improved now.
   - Continue oxygen by NC.
   .
   # Transaminitis: suspect shock liver. LFTs improving. INR elevated but
   stable.
   .  Trend daily INR, glucose, and ALT/AST.
   .
   # ARF: Suspect ATN in setting of cardiogenic shock as noted above. Cr
   stable at 1.7.
   # FEN: NPO for now given MS
   .
   # ACCESS: Cordis in Right IJ. A line. Peripherals
   .
   # Proph: Hep gtt, bowel regimen, HISS
   .
   # Pain control: appears comfortable
   .
   # Code: full
   .
   # Contact; Wife [**Telephone/Fax (1) 6146**] is HCP
   .
   # Dispo: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-7-9**] 04:12 AM
   IABP line - [**2124-7-11**] 04:00 PM
   20 Gauge - [**2124-7-14**] 09:07 AM
   Cordis/Introducer - [**2124-7-14**] 03:40 PM
   PA Catheter - [**2124-7-14**] 03:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-07-16 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Succesfully titrated Captopril to 12.5 TID and Milrinone to 0.
   - Amio to 400 mg PO BID from gtt
   - 3pm lytes demonstrated Na 142 and K 3.7; latter repleted
   - A line pulled
   - ASA PR 300mg changed to 81mg PO
   - CI at 2.8 on no milrinone, Captopril 12.25mg -- uptitrated to 18.75.
   Allergies:
   Tegretol (Oral) (Carbamazepine)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-7-15**] 01:50 AM
   Vancomycin - [**2124-7-15**] 08:20 PM
   Piperacillin - [**2124-7-16**] 04:00 AM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Metoprolol - [**2124-7-16**] 05:00 AM
   Other medications:
   Changes to medical and family history: No Changes.
   Review of systems is unchanged from [**Year (4 digits) 4298**] except as noted below
   Review of systems: No Changes.
   Flowsheet Data as of  [**2124-7-16**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.8
   HR: 73 (72 - 79) bpm
   BP: 75/55(66) {71/51(66) - 102/76(90)} mmHg
   RR: 25 (11 - 25) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 113 kg ([**Year (4 digits) 4298**]): 118.2 kg
   Height: 72 Inch
    CVP: 17 (12 - 23)mmHg
   PAP: (43 mmHg) / (28 mmHg)
   CO/CI (Fick): (6.1 L/min) / (2.6 L/min/m2)
   Mixed Venous O2% Sat: 67 - 71
   Total In:
                                                                  4,667 mL
                                                                    498 mL
   PO:
                                                                  1,620 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  3,047 mL
                                                                    198 mL
   Blood products:
   Total out:
                                                                  2,750 mL
                                                                    420 mL
   Urine:
                                                                  2,750 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,917 mL
                                                                     78 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.44/40/95.[**Numeric Identifier **]/25/2
   Physical Examination
   The patient is more alert, interactive.
   The physical exam is otherwise unchanged from yesterday.
   Labs / Radiology
   159 K/uL
   12.5 g/dL
   100 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.0 mEq/L
   29 mg/dL
   106 mEq/L
   139 mEq/L
   38.4 %
   13.8 K/uL
        [image002.jpg]
                             [**2124-7-13**]  06:08 PM
                             [**2124-7-13**]  09:10 PM
                             [**2124-7-14**]  04:07 AM
                             [**2124-7-14**]  04:20 AM
                             [**2124-7-14**]  02:04 PM
                             [**2124-7-15**]  04:57 AM
                             [**2124-7-15**]  06:42 AM
                             [**2124-7-15**]  04:23 PM
                             [**2124-7-16**]  05:04 AM
                             [**2124-7-16**]  05:39 AM
   WBC
   15.3
   15.0
   13.8
   Hct
   33.6
   35.6
   38.4
   Plt
   194
   175
   159
   Cr
   1.7
   1.6
   1.4
   1.3
   1.2
   TCO2
   36
   38
   37
   32
   28
   Glucose
   116
   104
   122
   145
   100
   Other labs: PT / PTT / INR:14.9/78.8/1.3, CK / CKMB /
   Troponin-T:30/7/0.02, ALT / AST:412/86, Alk Phos / T Bili:86/1.0,
   Differential-Neuts:80.9 %, Lymph:7.5 %, Mono:5.7 %, Eos:5.4 %, Lactic
   Acid:1.5 mmol/L, Albumin:2.7 g/dL, LDH:419 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 IMPAIRED SKIN INTEGRITY
 SUPRAVENTRICULAR TACHYCARDIA (SVT)
 DELIRIUM / CONFUSION
 SHOCK, CARDIOGENIC
   53yo male with history of obesity, OSA, and depression who p/w
   increasing SOB x5d and found to have 3+ MR [**First Name (Titles) **] [**Last Name (Titles) 4298**] TTE with
   hemodynamics consistent with cardiogenic shock. Now s/p IABP placement.
   Was intubated for airway protection and now extubated.
   .
   # Cardiogenic shock: Swan replaced yesterday with new cordis for
   invasive hemodynamics. CI 2.4 this am down from 3.4 yesterday evening
   in the setting of decrased milrinone dose. TTE reveals some improvement
   in EF and MR compared to earlier in the week which is quite
   encouraging. Cardiomyopathy w/u negative thus far cardiac cath, TSH,
   ESR, RF, [**Doctor First Name **], Iron studies and HIV.
   - Change pump to 1:4. Thereafter will gradually  wean pressors
   - Add captopril for increased afterload reduction and will attempt to
   d/c milrinone later today if CI remains greater than 2
   - Repeat Fick Q change of shift and change is nstatus
   - Continue IABP for now with 1:1
   - Continue heparin gtt with IABP
   - f/u CHF reccs
   .
   # Tachycardia: Well rate controlled since addition of digoxin 2 days
   ago.. Some initial concern for sepsis given reduced SVR, fevers and
   tachycardia. Afebrile since antibiotics started.
   - Continue Amiodarone
   - Continue digoxin
   .
   # Fever: Cx data remains unrevealing.. Concern for VAP/HAP so vanco,
   zosyn started. Swan removed for concern of infection risk and tip
   cultured with ngtd. Cordis also removed yesterday and cultured.
   Afebrile since abx started but fever curve trending up.
   - D/c a line today
   - Continue  Vanco 1 g Q12 and Zosyn 4.5 q8 and plan to narrow
   antibiotic coverage if remains afebrile next 24 hours
   - F/u cx data
   .
   # Hypernatremia: Na corrected from 148 to 141 with FW repletion
   yesterday. Was likely due to overaggressive diuresis.
   - Repeat lytes and calculate FW deficit in the afternoon. Restart FW as
   necessary.
   # Metabolic alkalosis: Origin likely contraction alkalosis in the
   setting of diuresis.  pH and Bicarb improved today after starting
   diamox yesterday.
   - D/c diamox for now
   - Repeat ABG to assess acid base in pm
   - Goal I/O even
   .
   # Coronaries: Biomarkers flat. ROMI complete. Coronaries clean on
   Cath.
   - Continue asa
   # Rash: Distribution remains consistent with contact dermatitis.
   - Continue abx for now as above
   - Bleach free sheets
   .
   # ARF: Suspect ATN in setting of cardiogenic shock as noted above. Cr
   improved to 1.4.
   # FEN: Start po diet today
   .
   # ACCESS: Cordis in Right IJ. A line. Peripherals
   .
   # Proph: Hep gtt, bowel regimen, HISS
   .
   # Pain control: appears comfortable
   .
   # Code: full
   .
   # Contact; Wife [**Telephone/Fax (1) 6146**] is HCP
   .
   # Dispo: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-7-9**] 04:12 AM
   IABP line - [**2124-7-11**] 04:00 PM
   20 Gauge - [**2124-7-14**] 09:07 AM
   Cordis/Introducer - [**2124-7-14**] 03:40 PM
   PA Catheter - [**2124-7-14**] 03:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-07-17 07:10:00 Physician Resident Progress Note
Chief Complaint: None
   24 Hour Events:
   - Digoxin converted to 0.125mg PO daily
   - Vanc, Zosyn discontinued
   - Metoprolol 5mg IV Q4 hours changed metoprolol 50mg PO TID
   - C diff sent by RN given diarrhea; pending
   - Balloon pump switched to 1:4, unsuccessful; CI dropped to mid-1s, SVR
   900s; MAP 80s; increased captopril 25mg PO TID
   - At 5pm, repeat CI 1.8 with SVR 1000; good urine output, mentating
   well, no changes made
   - At 8pm, CI 2.9 with SVR 600s
   - At 11pm, CI 2.1
   - Atrial flutter, rate-controlled
   Allergies:
   Tegretol (Oral) (Carbamazepine)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-7-15**] 01:50 AM
   Vancomycin - [**2124-7-15**] 08:20 PM
   Piperacillin - [**2124-7-16**] 04:00 AM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from [**Year (4 digits) 4298**] except as noted below
   Review of systems:
   Denies CP, SOB, abd pain, N/V
   Flowsheet Data as of  [**2124-7-17**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98.1
   HR: 70 (67 - 83) bpm
   BP: 91/53(73) {76/47(62) - 103/64(82)} mmHg
   RR: 14 (7 - 20) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 113 kg ([**Year (4 digits) 4298**]): 118.2 kg
   Height: 72 Inch
    CVP: 13 (11 - 18)mmHg
   PAP: (40 mmHg) / (22 mmHg)
   CO/CI (Fick): (5 L/min) / (2.1 L/min/m2)
   Mixed Venous O2% Sat: 54 - 74
   Total In:
                                                                  1,991 mL
                                                                    774 mL
   PO:
                                                                  1,590 mL
                                                                    540 mL
   TF:
   IVF:
                                                                    401 mL
                                                                    234 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    400 mL
   Urine:
                                                                  1,700 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    291 mL
                                                                    374 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.49/31/134/22/2
   Physical Examination
   GEN: NAD, Alert and Oriented x3
   HEENT: perrla
   CV: gallop present, balloon pump clearly heard, no murmurs or rubs
   Lungs: CTA anteriorly
   Abdomen: BS+, medium firmness
   Ext: warm, well-perfused, with 2+ pitting edema to knees
   SKIN: Erythematous macular rash on back, elbows, thighs sparing central
   spine, improving
   Labs / Radiology
   157 K/uL
   13.2 g/dL
   104 mg/dL
   1.2 mg/dL
   22 mEq/L
   3.9 mEq/L
   29 mg/dL
   109 mEq/L
   140 mEq/L
   37
   13.4 K/uL
        [image002.jpg]
                             [**2124-7-15**]  06:42 AM
                             [**2124-7-15**]  04:23 PM
                             [**2124-7-16**]  05:04 AM
                             [**2124-7-16**]  05:39 AM
                             [**2124-7-16**]  03:13 PM
                             [**2124-7-16**]  09:07 PM
                             [**2124-7-16**]  11:05 PM
                             [**2124-7-17**]  05:10 AM
                             [**2124-7-17**]  05:20 AM
                             [**2124-7-17**]  05:27 AM
   WBC
   13.8
   13.4
   Hct
   38.4
   37
   41
   39.8
   37
   Plt
   159
   157
   Cr
   1.3
   1.2
   1.3
   1.2
   TCO2
   32
   28
   24
   Glucose
   145
   100
   126
   104
   Other labs: PT / PTT / INR:14.5/66.4/1.3, CK / CKMB /
   Troponin-T:30/7/0.02, ALT / AST:412/86, Alk Phos / T Bili:86/1.0,
   Differential-Neuts:80.9 %, Lymph:7.5 %, Mono:5.7 %, Eos:5.4 %, Lactic
   Acid:1.5 mmol/L, Albumin:2.7 g/dL, LDH:419 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   53yo male with history of obesity, OSA, and depression who p/w
   increasing SOB x5d and found to have 3+ MR [**First Name (Titles) **] [**Last Name (Titles) 4298**] TTE with
   hemodynamics consistent with cardiogenic shock. Now s/p IABP placement.
   Was intubated for airway protection and now extubated.
   .
   # Cardiogenic shock: Swan replaced yesterday with new cordis for
   invasive hemodynamics. Trial 1:4 with IABP unsuccessful.  CI was less
   than 2 with IABP at 1:4 and now improved to 2.1. Cardiomyopathy w/u
   negative thus far cardiac cath, TSH, ESR, RF, [**Doctor First Name **], Iron studies and
   HIV.
   - Continue IABP at 1:1. Will attempt to reduce to 1:2 with Milrinone
   on.
   - Con
t Captopril 25 TID for afterload reduction. Will attempt to
   uptitrate if possible today
   - Repeat Fick Q change of shift and change is nstatus   1
   - Continue heparin gtt with IABP
   - f/u CHF reccs
   .
   # Tachycardia: Rate controlled A flutter overnight and tele consistent
   with A flutter this morning. Patient continues on digoxin, metoprolol
   and amiodarone
   -  Plan for 50TID of metoprolol PO with 30IV lopressor in between doses
   PRN
   - Continue Amiodarone until load complete and then reduce to 200 mg po
   BID
   - Digoxin .125 mg po
   .
   # Fever/Diarrhea: Afebrile since antibiotics d/cd yesterday. C diff
   negative x1. Swan and cordis cultures negative. Cx data remains
   unrevealing.  No positive cultures, but fever improved once swan/cordis
   pulleed; suspect line was source despite negative culture date..
   - Con
t A line for now
   - Restart Vanco zosyn if spikes
   - F/u cx data
   .
   # Hypernatremia: Inactive issue. Na corrected from 148 to 141 with FW
   repletion yesterday. Was likely due to overaggressive diuresis.
   - Repeat lytes and calculate FW deficit in the afternoon. Restart FW as
   necessary.
   # Metabolic alkalosis: Resolved. Origin likely contraction alkalosis in
   the setting of diuresis.  pH and Bicarb improved today after starting
   diamox yesterday.
   - D/c diamox for now
   - Repeat ABG to assess acid base in pm
   - Goal I/O even
   .
   # Coronaries: Biomarkers flat. ROMI complete. Coronaries clean on
   Cath.
   - Continue asa
   # Rash: Distribution remains consistent with contact dermatitis.
   - Bleach free sheets
   - con
t monitor
   .
   # ARF: Suspect ATN in setting of cardiogenic shock as noted above. Cr
   improved to 1.4.
   # FEN: Start po diet today
   .
   # ACCESS: Cordis in Right IJ. A line. Peripherals
   .
   # Proph: Hep gtt, bowel regimen, HISS
   .
   # Pain control: appears comfortable
   .
   # Code: full
   .
   # Contact; Wife [**Telephone/Fax (1) 6146**] is HCP
   .
   # Dispo: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-7-9**] 04:12 AM
   IABP line - [**2124-7-11**] 04:00 PM
   20 Gauge - [**2124-7-14**] 09:07 AM
   Cordis/Introducer - [**2124-7-14**] 03:40 PM
   PA Catheter - [**2124-7-14**] 03:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-07-18 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Increased Captopril to 37.5 with plan to max out by tomorrow to 50 mg
   TID. Will try to Taper IABP tommorow.
   - appears approx. euvolemic; I/0 goal 0 - negative 500. + 1 L at 1700.
   Gave lasix 40 mg IV x1.
   - Fick Numbers CI/CO/SVR 5/2.1/839 > 4.3/1.8/1240 > 8.2/3.4/703
   - Patient approximately 6400 mg into amiodarone load as of MN [**7-18**]
   - C diff returned positive 0530 - Started flagyl
   Allergies:
   Tegretol (Oral) (Carbamazepine)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2124-7-15**] 08:20 PM
   Piperacillin - [**2124-7-16**] 04:00 AM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from [**Year (4 digits) 4298**] except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-7-18**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.8
   HR: 70 (68 - 77) bpm
   BP: 105/62(79) {86/54(71) - 125/82(104)} mmHg
   RR: 12 (12 - 20) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 113 kg ([**Year (4 digits) 4298**]): 118.2 kg
   Height: 72 Inch
    CVP: 12 (11 - 20)mmHg
   PAP: (42 mmHg) / (22 mmHg)
   CO/CI (Fick): (8.2 L/min) / (3.4 L/min/m2)
   Mixed Venous O2% Sat: 54 - 74
   Total In:
                                                                  3,042 mL
                                                                    346 mL
   PO:
                                                                  2,260 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    782 mL
                                                                    227 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                    620 mL
   Urine:
                                                                  2,300 mL
                                                                    420 mL
   NG:
   Stool:
                                                                    300 mL
                                                                    200 mL
   Drains:
   Balance:
                                                                    442 mL
                                                                   -273 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   GEN: NAD, Alert and Oriented x3
   HEENT: perrla
   CV: gallop present, balloon pump clearly heard, no murmurs or rubs
   Lungs: CTA anteriorly
   Abdomen: BS+, soft, non-tender, mildly distended
   Ext:lower extremities cool, able to wiggle toes, with 2+ pitting edema
   to knees
   SKIN: Erythematous macular rash on back, elbows, thighs sparing central
   spine, improving
   Labs / Radiology
   157 K/uL
   11.8 g/dL
   94 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.6 mEq/L
   25 mg/dL
   107 mEq/L
   140 mEq/L
   37
   13.4 K/uL
                             [**2124-7-16**]  05:04 AM
                             [**2124-7-16**]  05:39 AM
                             [**2124-7-16**]  03:13 PM
                             [**2124-7-16**]  09:07 PM
                             [**2124-7-16**]  11:05 PM
                             [**2124-7-17**]  05:10 AM
                             [**2124-7-17**]  05:20 AM
                             [**2124-7-17**]  05:27 AM
                             [**2124-7-17**]  01:39 PM
                             [**2124-7-18**]  05:55 AM
   WBC
   13.8
   13.4
   Hct
   38.4
   37
   41
   39.8
   37
   Plt
   159
   157
   Cr
   1.2
   1.3
   1.2
   1.1
   1.0
   TCO2
   28
   24
   Glucose
   100
   126
   104
   123
   94
   Other labs: PT / PTT / INR:14.1/74.4/1.2, CK / CKMB /
   Troponin-T:30/7/0.02, ALT / AST:412/86, Alk Phos / T Bili:86/1.0,
   Differential-Neuts:80.9 %, Lymph:7.5 %, Mono:5.7 %, Eos:5.4 %, Lactic
   Acid:1.5 mmol/L, Albumin:2.7 g/dL, LDH:419 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   53yo male with history of obesity, OSA, and depression who p/w
   increasing SOB x5d and found to have 3+ MR [**First Name (Titles) **] [**Last Name (Titles) 4298**] TTE with
   hemodynamics consistent with cardiogenic shock. Now s/p IABP placement
   and off of Milrinone.
   .
   # Cardiogenic shock:.. IABP trial of 1:2 today demonstrated ficks of
   CO/CI/SVR: 5.3/2.2/1010 (8.2/3.4/703 on 1:1). Cardiomyopathy w/u
   negative thus far cardiac cath, TSH, ESR, RF, [**Doctor First Name **], Iron studies and
   HIV.
   - Cont Captopril to 50 mg
   - Repeat Fick Q change of shift and change in clinical status
   - Continue heparin gtt with IABP
   - I/O goal even to negative 500 cc
   - f/u CHF recs
   .
   # Tachycardia: Remains rate controlled. Patient continues on digoxin,
   metoprolol and amiodarone
   -  Cont 50mg TID of metoprolol PO with 5mg IV lopressor in between
   doses PRN
   - Continue Amiodarone until load complete and then reduce to 200 mg po
   BID (total of 6400 to date)
   - Digoxin .125 mg po
   .
   # Fever/Diarrhea: Remains afebrile though CDiff pos x 1. Started Flagyl
   this am.
   - Con
t A line for now. Will plan to d/c as soon as clinically possible
   given fevers while A line was in place.
   - Cont Flagyl for total 14 day course
   - F/u cx data
   .
   # Metabolic alkalosis: Resolved. Origin likely contraction alkalosis in
   the setting of diuresis.  pH and Bicarb improved with diamox.
   - Continue to hold diamox
   - Goal I/O even
   .
   # Coronaries: Biomarkers flat. ROMI complete. Coronaries clean on
   Cath.
   - Continue asa
   # Rash: Distribution remains consistent with contact dermatitis.
   - Bleach free sheets
   - con
t monitor
   .
   # ARF: Suspect ATN in setting of cardiogenic shock as noted above. Cr
   has improved to 1.
   .
   # FEN: Tolerating po diet. Replete lytes prn.
   .
   # ACCESS: Cordis in LIJ ([**2124-7-9**]). A line([**2124-7-9**]).
   Peripherals([**2124-7-14**])
   .
   # Proph: Hep gtt, bowel regimen, HISS
   .
   # Pain control: appears comfortable
   .
   # Code: full
   .
   # Contact; Wife [**Telephone/Fax (1) 6146**] is HCP
   .
   # Dispo: CCU

2124-07-19 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Ficks 1:2 6am 5.3/2.2/1010-->9am6.5/2.7/880-->1:4 4.5/1.9/1247-->8pm
   1:2 4.1/1.7/1208---> 6am 1:2 5.1/2.1/1186
   -Dr. [**First Name (STitle) **] saw pt this afternoon and rec tolerating CI 1.5-2
   -Notably pt was mentating a little slowly when CI 1.4 but improved when
   CI increased to 1.7
   -Feet cool though no e/o emboli. Pt not in pain.
   -Increased captopril to 62.5 mg TID and then to 100mg TID
   -11pm I/O check:-735 cc
   -A line came out this am
   -Repleted Mg and Phos this am
 ARTERIAL LINE - STOP [**2124-7-19**] 04:00 AM
   Allergies:
   Tegretol (Oral) (Carbamazepine)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from [**Year (4 digits) 4298**] except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-7-19**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.8
   HR: 75 (68 - 79) bpm
   BP: 101/67(84) {86/58(73) - 115/72(88)} mmHg
   RR: 12 (9 - 21) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 113 kg ([**Year (4 digits) 4298**]): 118.2 kg
   Height: 72 Inch
    CVP: 9 (8 - 23)mmHg
   PAP: (37 mmHg) / (20 mmHg)
   CO/CI (Fick): (5.1 L/min) / (2.1 L/min/m2)
   Mixed Venous O2% Sat: 48 - 71
   Total In:
                                                                  1,263 mL
                                                                    485 mL
   PO:
                                                                    480 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    783 mL
                                                                    245 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                    175 mL
   Urine:
                                                                  1,555 mL
                                                                    175 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                   -492 mL
                                                                    310 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   GEN: NAD, Alert and Oriented x3, slow to answer questions
   HEENT: perrla
   CV: gallop present, balloon pump clearly heard, no murmurs or rubs
   Lungs: CTA anteriorly
   Abdomen: BS+, soft, non-tender, mildly distended
   Ext:lower extremities cool and cyanotic,though dopplerable pulses, able
   to wiggle toes, 2+ pitting edema to knees
   SKIN: Erythematous macular rash on back, elbows, thighs sparing central
   spine, improving
   Labs / Radiology
   130 K/uL
   12.4 g/dL
   87 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.9 mEq/L
   20 mg/dL
   107 mEq/L
   140 mEq/L
   35.5 %
   17.3 K/uL
        [image002.jpg]
                             [**2124-7-16**]  05:39 AM
                             [**2124-7-16**]  03:13 PM
                             [**2124-7-16**]  09:07 PM
                             [**2124-7-16**]  11:05 PM
                             [**2124-7-17**]  05:10 AM
                             [**2124-7-17**]  05:20 AM
                             [**2124-7-17**]  05:27 AM
                             [**2124-7-17**]  01:39 PM
                             [**2124-7-18**]  05:55 AM
                             [**2124-7-19**]  04:18 AM
   WBC
   13.4
   16.3
   17.3
   Hct
   37
   41
   39.8
   37
   39.1
   35.5
   Plt
   157
   139
   130
   Cr
   1.3
   1.2
   1.1
   1.0
   1.0
   TCO2
   28
   24
   Glucose
   126
   104
   123
   94
   87
   Other labs: PT / PTT / INR:14.9/66.3/1.3, CK / CKMB /
   Troponin-T:30/7/0.02, ALT / AST:412/86, Alk Phos / T Bili:86/1.0,
   Differential-Neuts:67.0 %, Band:1.0 %, Lymph:15.0 %, Mono:14.0 %,
   Eos:2.0 %, Lactic Acid:1.5 mmol/L, Albumin:2.7 g/dL, LDH:419 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.6 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 IMPAIRED SKIN INTEGRITY
 SUPRAVENTRICULAR TACHYCARDIA (SVT)
 SHOCK, CARDIOGENIC
   53yo male with history of obesity, OSA, and depression who p/w
   increasing SOB x5d and found to have 3+ MR [**First Name (Titles) **] [**Last Name (Titles) 4298**] TTE with
   hemodynamics consistent with cardiogenic shock. Now s/p IABP placement
   and off of Milrinone.
   .
   # Cardiogenic shock:.. IABP trial of 1:4 yesterday resulted in reduced
   CI.  Captopril increased to 100mg TID and patient switched back to 1:2
   overnight with improvement in his CI, SVR and stable BP
s throughout.
   Cardiomyopathy w/u negative thus far cardiac cath, TSH, ESR, RF, [**Doctor First Name **],
   Iron studies and HIV. Plan is to cont to reattempt wean off IABP today-
   will increase to 1:4 this afternoon and recheck Ficks on 100mg TID
   captopril.  Will tolerate CI 1.5- 2.0 with MAPs>55.  If CI worsening,
   switch back to 1:1 or consider adding back inotrope given severe CHF.
   - Cont Captopril 100 mg TID
   - Wean IABP as tolerated
   - Continue heparin gtt with IABP
   - I/O goal even to negative 500 cc
   .
   # Tachycardia: Remains rate controlled. Patient continues on digoxin,
   metoprolol and amiodarone
   -  Cont 50mg TID of metoprolol PO with 5mg IV lopressor in between
   doses PRN
   - Continue Amiodarone 400 mg [**Hospital1 **]
   - Digoxin .125 mg po
   .
   # Fever/Diarrhea: Remains afebrile though CDiff pos x 1. Started
   Flagyl.
    - Cont Flagyl for total 14 day course
   - F/u cx data
   .
   # Metabolic alkalosis: Resolved. Origin likely contraction alkalosis in
   the setting of diuresis.  pH and Bicarb improved with diamox.
   - Continue to hold diamox
   - Goal I/O even
   .
   # Coronaries: Biomarkers flat. ROMI complete. Coronaries clean on
   Cath.
   - Continue asa
   # Rash: Distribution remains consistent with contact dermatitis.
   - Bleach free sheets
   - con
t monitor
   .
   # ARF: Suspect ATN in setting of cardiogenic shock as noted above. Cr
   has improved to 1.
   .
   # FEN: Tolerating po diet. Replete lytes prn.
   .
   # ACCESS: Cordis in LIJ ([**2124-7-9**]). A line([**2124-7-9**]).
   Peripherals([**2124-7-14**])
   .
   # Proph: Hep gtt, bowel regimen, HISS
   .
   # Pain control: appears comfortable
   .
   # Code: full
   .
   # Contact; Wife [**Telephone/Fax (1) 6146**] is HCP
   .
   # Dispo: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   IABP line - [**2124-7-11**] 04:00 PM
   Cordis/Introducer - [**2124-7-14**] 03:40 PM
   PA Catheter - [**2124-7-14**] 03:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Plan is to remove IABP today
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2124-7-20**]
   10:59 ------

2124-07-20 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PA CATHETER - STOP [**2124-7-19**] 04:30 PM
 CORDIS/INTRODUCER - STOP [**2124-7-19**] 04:30 PM
 IABP LINE - STOP [**2124-7-19**] 05:15 PM
 MULTI LUMEN - START [**2124-7-19**] 05:34 PM
   [**2124-7-19**]:
   Ficks: 1:2 6am 5.1/2/1/1186 --> 1:4 11am 5.6/2.6/1113
   Removed balloon pump at 6:49pm
   Swan removed and CVL line placed over wire LIJ, CXR OK
   I/O check -139cc at 11pm
   2300 noted to have cyanotic/painful/cold toes b/l. +dopplers.
   Restarted heparin gtt
   Vascular consulted, nothing new. Cont to monitor given +dopplers
   Allergies:
   Tegretol (Oral) (Carbamazepine)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from [**Month/Day/Year 4298**] except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-7-20**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 84 (72 - 101) bpm
   BP: 99/40(55) {88/40(55) - 129/87(92)} mmHg
   RR: 16 (9 - 21) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 113 kg ([**Year (4 digits) 4298**]): 118.2 kg
   Height: 72 Inch
    CVP: 17 (13 - 26)mmHg
   PAP: (42 mmHg) / (25 mmHg)
   CO/CI (Fick): (5.6 L/min) / (2.4 L/min/m2)
   Mixed Venous O2% Sat: 64 - 64
   Total In:
                                                                  1,106 mL
                                                                     97 mL
   PO:
                                                                    680 mL
   TF:
   IVF:
                                                                    426 mL
                                                                     97 mL
   Blood products:
   Total out:
                                                                  1,245 mL
                                                                    585 mL
   Urine:
                                                                  1,245 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -139 mL
                                                                   -488 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   GEN: NAD, Alert and Oriented x3, slow to answer questions
   HEENT: perrla
   CV: gallop present, balloon pump clearly heard, no murmurs or rubs
   Lungs: CTA anteriorly
   Abdomen: BS+, soft, non-tender, mildly distended
   Ext:lower extremities cool and cyanotic,though dopplerable pulses, able
   to wiggle toes, 2+ pitting edema to knees
   SKIN: Erythematous macular rash on back, elbows, thighs sparing central
   spine, improving
   Labs / Radiology
   155 K/uL
   11.7 g/dL
   89 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.3 mEq/L
   19 mg/dL
   109 mEq/L
   140 mEq/L
   36.0 %
   17.0 K/uL
        [image002.jpg]
                             [**2124-7-16**]  03:13 PM
                             [**2124-7-16**]  09:07 PM
                             [**2124-7-16**]  11:05 PM
                             [**2124-7-17**]  05:10 AM
                             [**2124-7-17**]  05:20 AM
                             [**2124-7-17**]  05:27 AM
                             [**2124-7-17**]  01:39 PM
                             [**2124-7-18**]  05:55 AM
                             [**2124-7-19**]  04:18 AM
                             [**2124-7-20**]  03:53 AM
   WBC
   13.4
   16.3
   17.3
   17.0
   Hct
   37
   41
   39.8
   37
   39.1
   35.5
   36.0
   Plt
   157
   139
   130
   155
   Cr
   1.3
   1.2
   1.1
   1.0
   1.0
   1.0
   TCO2
   24
   Glucose
   126
   104
   123
   94
   87
   89
   Other labs: PT / PTT / INR:15.4/54.4/1.4, CK / CKMB /
   Troponin-T:30/7/0.02, ALT / AST:412/86, Alk Phos / T Bili:86/1.0,
   Differential-Neuts:74.7 %, Band:1.0 %, Lymph:18.4 %, Mono:2.6 %,
   Eos:4.0 %, Lactic Acid:1.5 mmol/L, Albumin:2.7 g/dL, LDH:419 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   53yo male with history of obesity, OSA, and depression who p/w
   increasing SOB x5d and found to have 3+ MR [**First Name (Titles) **] [**Last Name (Titles) 4298**] TTE with
   hemodynamics consistent with cardiogenic shock. Now s/p IABP placement
   and off of Milrinone.
   .
   # Cardiogenic shock:.. IABP trial of 1:4 yesterday resulted in reduced
   CI.  Captopril increased to 100mg TID and patient switched back to 1:2
   overnight with improvement in his CI, SVR and stable BP
s throughout.
   Cardiomyopathy w/u negative thus far cardiac cath, TSH, ESR, RF, [**Doctor First Name **],
   Iron studies and HIV. Plan is to cont to reattempt wean off IABP today-
   will increase to 1:4 this afternoon and recheck Ficks on 100mg TID
   captopril.  Will tolerate CI 1.5- 2.0 with MAPs>55.  If CI worsening,
   switch back to 1:1 or consider adding back inotrope given severe CHF.
   - Cont Captopril 100 mg TID
   - Wean IABP as tolerated
   - Continue heparin gtt with IABP
   - I/O goal even to negative 500 cc
   .
   # Tachycardia: Remains rate controlled. Patient continues on digoxin,
   metoprolol and amiodarone
   -  Cont 50mg TID of metoprolol PO with 5mg IV lopressor in between
   doses PRN
   - Continue Amiodarone 400 mg [**Hospital1 **]
   - Digoxin .125 mg po
   .
   # Fever/Diarrhea: Remains afebrile though CDiff pos x 1. Started
   Flagyl.
    - Cont Flagyl for total 14 day course
   - F/u cx data
   .
   # Metabolic alkalosis: Resolved. Origin likely contraction alkalosis in
   the setting of diuresis.  pH and Bicarb improved with diamox.
   - Continue to hold diamox
   - Goal I/O even
   .
   # Coronaries: Biomarkers flat. ROMI complete. Coronaries clean on
   Cath.
   - Continue asa
   # Rash: Distribution remains consistent with contact dermatitis.
   - Bleach free sheets
   - con
t monitor
   .
   # ARF: Suspect ATN in setting of cardiogenic shock as noted above. Cr
   has improved to 1.
   .
   # FEN: Tolerating po diet. Replete lytes prn.
   .
   # ACCESS: Cordis in LIJ ([**2124-7-9**]). A line([**2124-7-9**]).
   Peripherals([**2124-7-14**])
   # Proph: Hep gtt, bowel regimen, HISS
   # Pain control: appears comfortable
   .# Code: full
   # Contact; Wife [**Telephone/Fax (1) 6146**] is HCP
   # Dispo: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-7-19**] 05:34 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-07-21 07:25:00 Physician Resident Progress Note
24 Hour Events:
   - Warfarin started and heparin gtt to cont
   - Vasc recs: cont heparin, no other recs at this time
   - ABIs on hold until diuresed more
   - I/O check (after lasix 40 mg IV): -1.5L
   - Amiodarone decreased to 200 mg daily
   - Dig level: 0.4
   - KUB: negative for obstruction
   - orthostatics negative
   - pt had another episode of cold toes, pt doppler+, improved on its
   own, not as severe as episode yesterday
   - Pt self-d/c'd central line in middle of night
   Allergies:
   Tegretol (Oral) (Carbamazepine)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from [** 4298**] except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-7-21**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.3
   HR: 82 (77 - 92) bpm
   BP: 94/43(56) {94/40(53) - 121/90(95)} mmHg
   RR: 18 (13 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115 kg ([**Year (4 digits) 4298**]): 118.2 kg
   Height: 72 Inch
             Total In:
                                                                  1,168 mL
                                                                    104 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                    328 mL
                                                                    104 mL
   Blood products:
   Total out:
                                                                  2,675 mL
                                                                    510 mL
   Urine:
                                                                  2,675 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,507 mL
                                                                   -406 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   GEN: NAD, Alert and Oriented x3, answers questions appropriately
   HEENT: perrla
   CV: gallop present, balloon pump clearly heard, no murmurs or rubs
   Lungs: CTAB
   Abdomen: BS+, soft, non-tender, mildly distended
   Ext: Lower extremities war, well perfused, dopplerable pulses, able to
   wiggle toes, 2+ pitting edema to knees
   SKIN: Erythematous macular rash on back, elbows, thighs sparing central
   spine, improving. Shiny hairless skin on calves.
   Labs / Radiology
   155 K/uL
   11.7 g/dL
   92 mg/dL
   1.1 mg/dL
   23 mEq/L
   5.7 mEq/L
   20 mg/dL
   104 mEq/L
   137 mEq/L
   36.0 %
   17.0 K/uL
        [image002.jpg]
                             [**2124-7-16**]  09:07 PM
                             [**2124-7-16**]  11:05 PM
                             [**2124-7-17**]  05:10 AM
                             [**2124-7-17**]  05:20 AM
                             [**2124-7-17**]  05:27 AM
                             [**2124-7-17**]  01:39 PM
                             [**2124-7-18**]  05:55 AM
                             [**2124-7-19**]  04:18 AM
                             [**2124-7-20**]  03:53 AM
                             [**2124-7-20**]  05:18 PM
   WBC
   13.4
   16.3
   17.3
   17.0
   Hct
   37
   41
   39.8
   37
   39.1
   35.5
   36.0
   Plt
   157
   139
   130
   155
   Cr
   1.2
   1.1
   1.0
   1.0
   1.0
   1.1
   TCO2
   24
   Glucose
   104
   123
   94
   87
   89
   92
   Other labs: PT / PTT / INR:15.4/54.7/1.4, CK / CKMB /
   Troponin-T:30/7/0.02, ALT / AST:412/86, Alk Phos / T Bili:86/1.0,
   Differential-Neuts:74.7 %, Band:1.0 %, Lymph:18.4 %, Mono:2.6 %,
   Eos:4.0 %, Lactic Acid:1.5 mmol/L, Albumin:2.7 g/dL, LDH:419 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   53yo male with history of obesity, OSA, and depression who p/w
   increasing SOB x5d and found to have 3+ MR [**First Name (Titles) **] [**Last Name (Titles) 4298**] TTE with
   hemodynamics consistent with cardiogenic shock. Now s/p IABP placement
   and off of Milrinone.
   .
   # Cardiogenic shock: Remains hemodynamically stable s/p IABP. Diuresing
   well.
   - cont carvedilol for afterload reduction
   - Cont Captopril 100 mg TID
   - increase I/O goal today
 starting lasix gtt - 20mg lasix bolus and
   3mg/h: negative 2-3L
   .
   #Rhythm: Remains rate controlled in sinus rhythm.
   - switched from carvedilol to metoprolol
   - Cont Amiodarone 200 mg daily
   - increase Digoxin .250 mg po
   - Cont Warfarin and cont heparin gtt until therapeutic on coumadin
   .
   # CDiff/Leukocystosis: Cont to have leukocytosis likely related to
   Cdiff- all other blood and urine cx remain neg.  Stools are now formed.
   - Cont Flagyl (day 4 of 14)
   -  F/u cx data
   .
   # PVD:Lower extremities warm and well perfused this am. Unclear why
   they have been cooler past few days. Pulses remain dopplerable..
   - f/u vasc recs
   - will need ABIs
   -cont heparin as per above
   .
   # Coronaries:No active issues.
   - Continue asa
   # Rash: Distribution remains consistent with contact dermatitis.
   - Bleach free sheets
   - con
t monitor
   .
   # FEN: Tolerating po diet. Replete lytes prn.
   .
   # ACCESS: Cordis in LIJ ([**2124-7-9**]). A line([**2124-7-9**]).
   Peripherals([**2124-7-14**])
   # Proph: Hep gtt, bowel regimen, HISS
   # Pain control: appears comfortable
   .# Code: full
   # Contact; Wife [**Telephone/Fax (1) 6146**] is HCP
   # Dispo: Floor